US07977331B1
Step 8: Production of methyl 2-[2-(2-chloroacetylamino)-4-methylphenyl]-3-cyclohexyl-1H-indole-6-carboxylate
To a suspension of methyl 2-(2-amino-4-methylphenyl)-3-cyclohexyl-1H-indole-6-carboxylate (638 mg, 1.6 mmol), sodium acetate (289 mg, 3.5 mmol) and acetic acid (0.10 ml, 1.8 mmol) in tetrahydrofuran (7 ml) was added dropwise chloroacetyl chloride (0.14 ml, 1.8 mmol), and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The obtained crude product (640 mg) was used for Step 9 without further purification.

reactant | methyl 2-(2-amino-4-methylphenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 1.6 mmol, 638 mg | NC1=C(C=CC(=C1)C)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C23H26N2O2
reactant | sodium acetate | 3.5 mmol, 289 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 1.8 mmol, 0.10 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 1.8 mmol, 0.14 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl 2-[2-(2-chloroacetylamino)-4-methylphenyl]-3-cyclohexyl-1H-indole-6-carboxylate | 640 mg | ClCC(=O)NC1=C(C=CC(=C1)C)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C25H27ClN2O3
